US20010023250A1
cis-4-(6, 7-Dimethoxyquinoxalin-2-ylamino)-cyclohexanol
A mixture of cis-4-aminocyclohexanol (400 mg, 3.48 mmole) and 2-chloro-6, 7-dimethoxyquinoxaline (450 mg, 2 mmole) in 5 mL of ethanol is placed in sealed tube and then heated at 180° C. for 3 hours. The dark-brown mixture is chromatographed on silica gel and eluted with ethyl acetate to provide the desired product (m.p. 65-67° C.). Anal. Calcd. for C16H21N3O3•0.6H2O: C, 61.17; H, 7.12; N, 13.37; Found: C, 61.22; H, 7.19; N, 12.19.

reactant | cis-4-aminocyclohexanol | 3.48 mmole, 400 mg | N[C@H]1CC[C@H](CC1)O | C6H13NO
reactant | 2-chloro-6, 7-dimethoxyquinoxaline | 2 mmole, 450 mg | ClC1=NC2=CC(=C(C=C2N=C1)OC)OC | C10H9ClN2O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | cis-4-(6, 7-Dimethoxyquinoxalin-2-ylamino)-cyclohexanol | COC=1C=C2N=CC(=NC2=CC1OC)N[C@H]1CC[C@H](CC1)O | C16H21N3O3
